US07592358B2
12.1d. 2-{4-[5-(4-chlorophenyl)pyridin-2-ylethynyl]-2-isopropenylphenoxy}ethanol
The product was prepared analogously to Example 7.1e starting from 2-(4-iodo-2-isopropenylphenoxy)ethanol and 5-(4-chlorophenyl)-2-ethynylpyridine. Yield: 1.00 g (60% of theoretical); C24H20ClNO2 (M=389.874); calc.: molpeak (M+H)+: 390/392 (Cl); found: molpeak (M+H)+: 390/392 (Cl); Rf value: 0.30 (silica gel, PE/EtOAc 1:1).

reactant | 2-(4-iodo-2-isopropenylphenoxy)ethanol | IC1=CC(=C(OCCO)C=C1)C(=C)C | C11H13IO2
reactant | 5-(4-chlorophenyl)-2-ethynylpyridine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-{4-[5-(4-chlorophenyl)pyridin-2-ylethynyl]-2-isopropenylphenoxy}ethanol | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=CC(=C(OCCO)C=C1)C(=C)C | C24H20ClNO2
